US06093732
N-[(4-Chlorophenyl)methyl]-8-fluoro-4-hydroxy-3-quinoline-carboxamide
A mixture of 0.50 g of ethyl 8-fluoro-4-hydroxy-3-quinolinecarboxylate (J. Med. Chem., 22, 816 (1979)) and 3.0 mL of 4-chlorobenzylamine is stirred 1 hour at 200° C. The mixture is cooled to 25° C. and it is diluted with 25 mL of hexanes. After stirring for an additional 1 h the solid precipitate is collected by filtration and washed with 10 mL of hexanes. It is dried in a stream of air and then it is suspended in 20 mL of glacial acetic acid. The mixture is heated until the solid is completely dissolved and the resulting solution is diluted with 200 mL of distilled water. The mixture is allowed to cool to 25° C. and the solid is collected by filtration. It is washed with a small volume of 10% aqueous acetic acid and then it is dried at torr and 45° C. for 18 h. The yield is 0.52 g.

reactant | ethyl 8-fluoro-4-hydroxy-3-quinolinecarboxylate | 0.50 g | FC=1C=CC=C2C(=C(C=NC12)C(=O)OCC)O | C12H10FNO3
reactant | 4-chlorobenzylamine | 3.0 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
product | N-[(4-Chlorophenyl)methyl]-8-fluoro-4-hydroxy-3-quinoline-carboxamide | ClC1=CC=C(C=C1)CNC(=O)C=1C=NC2=C(C=CC=C2C1O)F | C17H12ClFN2O2
